US08686004B2
Stage 2: Methyl 6-[2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carboximidoate
6-[2-(5-Fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carbonitrile (0.33 g, 1.17 mmol) and sodium methoxide (0.13 g, 0.23 mmol) were stirred in methanol (10 ml) and dichloromethane (10 ml) at room temperature for 3 d. The precipitated solid was filtered off and the solvent of the filtrate was removed under reduced pressure. The residue was dissolved in dichloromethane and filtered through Celite. The solvent of the filtrate was removed under reduced pressure. This gave 0.32 g (83% of theory) of methyl 6-[2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carboximidoate.

reactant | 6-[2-(5-Fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carbonitrile | 1.17 mmol, 0.33 g | FC=1C=C(C=NC1)C=1SC(=CN1)C1=CC=CC(=N1)C#N | C14H7FN4S
reactant | sodium methoxide | 0.23 mmol, 0.13 g | C[O-].[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | Methyl 6-[2-(5-fluoropyridin-3-yl)-1,3-thiazol-5-yl]pyridine-2-carboximidoate | FC=1C=C(C=NC1)C=1SC(=CN1)C1=CC=CC(=N1)C(OC)=N | C15H11FN4OS
